US08198267B2
1-(2-Isopropyl-4-nitrophenyl)tetrahydropyrimidin-2(1H)-one
347 mg (3.47 mmol) of tetrahydropyrimidinone in 21 ml of DMSO are admixed at RT with 584 mg (5.21 mmol) of potassium tert-butoxide, and the mixture is stirred at RT for 45 min. 700 mg (3.82 mmol) of 1-fluoro-2-isopropyl-4-nitrobenzene are added and the mixture is stirred at 60° C. After 18 h, it is cooled and diluted with 250 ml of water. It is extracted three times with ethyl acetate and the combined organic phases are dried over sodium sulfate. After filtration, the solvents are removed under reduced pressure and the residue is purified by chromatography on silica gel (1:5→1:10 cyclohexane/ethyl acetate). This affords 140 mg (14% of theory) of the desired compound.

reactant | tetrahydropyrimidinone | 3.47 mmol, 347 mg | N1C(NCCC1)=O | C4H8N2O
reactant | potassium tert-butoxide | 5.21 mmol, 584 mg | CC(C)([O-])C.[K+]
reactant | 1-fluoro-2-isopropyl-4-nitrobenzene | 3.82 mmol, 700 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])C(C)C | C9H10FNO2
solvent | DMSO | 21 ml | CS(=O)C | C2H6OS
solvent | water | 250 ml | O | H2O
product | 1-(2-Isopropyl-4-nitrophenyl)tetrahydropyrimidin-2(1H)-one | C(C)(C)C1=C(C=CC(=C1)[N+](=O)[O-])N1C(NCCC1)=O | C13H17N3O3
